US08247415B2
Step B: (3-{[(Benzyloxy)carbonyl]amino}phenyl)acetic acid
To a solution of 44.0 g (140 mmol) of ethyl (3-{[(benzyloxy)carbonyl]amino}phenyl)acetate) (from Step A) in THF, ethanol, and water (1:1:1, 1500 mL) was added solid LiOH (16.8 g, 700 mmol) and the resulting solution heated to 60° C. via oil bath for 3 h. The mixture was cooled to room temperature overnight and then 40 mL of concentrate HCl was slowly added, keeping the temperature below 25° C., until the solution was about pH of 2-3. Extract with ethyl acetate (3×750 mL) and then combine and wash organics with water and then brine. Dry organics over sodium sulfate, filter and concentrate under vacuum. The title compound (24.7 g, 87%) was used for the next step reaction without further purification. LC-MS: m/z (ES) 286 (MH)+, 308 (MNa)+.

reactant | ethyl (3-{[(benzyloxy)carbonyl]amino}phenyl)acetate | 140 mmol, 44.0 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1)CC(=O)OCC | C18H19NO4
reactant | ethanol | C(C)O | C2H6O
reactant | LiOH | 700 mmol, 16.8 g | [Li+].[OH-]
reactant | HCl | 40 mL | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 1500 mL | O | H2O
product | (3-{[(Benzyloxy)carbonyl]amino}phenyl)acetic acid | C(C1=CC=CC=C1)OC(=O)NC=1C=C(C=CC1)CC(=O)O | C16H15NO4
